US05387603
To a solution of 5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy)ethylamino]propyl]indoline-7-carboxamide (97 mg) in methylene chloride (1 ml) and pyridine (1 ml) was added 3,4-dichlorobenzoyl chloride (84 mg), and the mixture was stirred at room temperature for 20 hours. The pH of the reaction mixture was adjusted to pH 7 with phosphate buffer solution, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by medium pressure liquid column chromatography on silica gel using a mixture of hexane and ethyl acetate (4/1) as eluent to give 98 mg of 5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy)ethylamino]propyl]-1-(3,4-dichlorobenzoyl)indoline-7-carbonitrile as an oil.

reactant | 5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy)ethylamino]propyl]indoline-7-carboxamide | 97 mg | C(C)(C)(C)OC(=O)N(C(CC=1C=C2CCNC2=C(C1)C(=O)N)C)CCOC1=C(C=CC=C1)OCC | C27H37N3O5
reactant | 3,4-dichlorobenzoyl chloride | 84 mg | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | phosphate | P(=O)([O-])([O-])[O-]
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy)ethylamino]propyl]-1-(3,4-dichlorobenzoyl)indoline-7-carbonitrile | 98 mg | C(C)(C)(C)OC(=O)N(C(CC=1C=C2CCN(C2=C(C1)C#N)C(C1=CC(=C(C=C1)Cl)Cl)=O)C)CCOC1=C(C=CC=C1)OCC | C34H37Cl2N3O5
